US07795315B2
2-(4-Bromo-phenyl)-2-(2-morpholin-4-yl-ethylamino)-N-(4-trifluoromethyl-phenyl)-acetamide
To a solution of 4-bromobenzaldehyde (3.09 g, 16.7 mmol) in anhydrous MeOH (10 mL) was added N-aminoethyl-morpholine (2.17 g, 16.7 mmol) followed by trifluoroacetic acid (1.90 g, 16.7 mmol) under N2 atmosphere. After stirring the reaction mixture for 5 minutes, 4-trifluoromethylphenylisocyanide (2.85 g, 16.7 mmol) was added and the reaction then heated to 80 degrees Celcius for 2 h. Anhydrous potassium carbonate (4.60 g, 33.3 mmol) was then added and the reaction stirred at 80 degrees Celcius for an additional 2 h. After solvent removal, the residue was diluted with dichloromethane (100 mL) and water (100 mL). The aqueous layer was extracted with dichloromethane (50 mL x2). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography eluting with ethyl acetate: petroleum ether gradient (10%-50%) to afford the product as a yellow solid (2.9 g, 35%).

reactant | 4-bromobenzaldehyde | 16.7 mmol, 3.09 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | N-aminoethyl-morpholine | 16.7 mmol, 2.17 g | NCCN1CCOCC1 | C6H14N2O
reactant | trifluoroacetic acid | 16.7 mmol, 1.90 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethylphenylisocyanide | 16.7 mmol, 2.85 g | FC(C1=CC=C(C=C1)[N+]#[C-])(F)F | C8H4F3N
reactant | potassium carbonate | 33.3 mmol, 4.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 10 mL | CO | CH4O
product | 2-(4-Bromo-phenyl)-2-(2-morpholin-4-yl-ethylamino)-N-(4-trifluoromethyl-phenyl)-acetamide | 2.9 g, 35% | BrC1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)C(F)(F)F)NCCN1CCOCC1 | C21H23BrF3N3O2
